US08754101B2
Intermediate 1: Methyl 5-chloroimidazol[1,2-a]pyridine-8-carboxylate
To a stirred suspension of methyl 2-amino-6-chloro-3-pyridinecarboxylate (2 g, 10.72 mmol) and sodium bicarbonate (900 mg, 10.72 mmol) in a mixture of methanol (40 mL) and water (20 mL) was added chloroacetaldehyde (50% wt. solution in water, 2.9 mL, 22.51 mmol). The resultant mixture was heated at reflux for 5 hours when more chloroacetaldehyde (50% wt. solution in water, 1.45 mL, 11.25 mmol) was added and heating at reflux continued for 16 hours. The majority of the solvent was then removed in vacuo and the residue was partitioned between ethyl acetate (150 mL) and saturated aqueous sodium bicarbonate (150 mL). The organic phase was separated and the aqueous phase was back extracted with ethyl acetate (150 mL). The combined organic extracts were dried (MgSO4), filtered and concentrated in vacuo. The residue was dissolved in DCM and purified on a silica cartridge (100 g) using a 0-100% ethyl acetate-cyclohexane+0-20% methanol gradient over 60 mins. The appropriate fractions were combined and evaporated in vacuo to give the title compound as a yellow solid (1.32 g).

reactant | methyl 2-amino-6-chloro-3-pyridinecarboxylate | 10.72 mmol, 2 g | NC1=NC(=CC=C1C(=O)OC)Cl | C7H7ClN2O2
reactant | sodium bicarbonate | 10.72 mmol, 900 mg | C([O-])(O)=O.[Na+]
reactant | chloroacetaldehyde | 22.51 mmol, 2.9 mL | ClCC=O | C2H3ClO
reactant | chloroacetaldehyde | 11.25 mmol, 1.45 mL | ClCC=O | C2H3ClO
solvent | methanol | 40 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
product | Methyl 5-chloroimidazol[1,2-a]pyridine-8-carboxylate | 1.32 g | ClC1=CC=C(C=2N1C=CN2)C(=O)OC | C9H7ClN2O2
